US07459552B2
Synthesis of 3-amino-2,6-dimethyl-4-trifluoromethylpyridine dihydrochloride
3-tert-Butoxycarbonylamino-2,6-dimethyl-4-trifluoromethylpyridine(21.12 g, 72.8 mmol) was dissolved in methanol (70 mL). 10% hydrochloric acid in methanol (140 mL) was added to the solution, followed by stirring for 12 hours at 60° C. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in a solvent mixture of ethyl acetate-ether, followed by collection through filtration and washing with ether, to thereby yield 3-amino-2,6-dimethyl-4-trifluoromethylpyridine dihydrochloride as a colorless powder (15.64 g, 82%).

reactant | 3-tert-Butoxycarbonylamino-2,6-dimethyl-4-trifluoromethylpyridine | 72.8 mmol, 21.12 g | C(C)(C)(C)OC(=O)NC=1C(=NC(=CC1C(F)(F)F)C)C | C13H17F3N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 70 mL | CO | CH4O
solvent | methanol | 140 mL | CO | CH4O
product | 3-amino-2,6-dimethyl-4-trifluoromethylpyridine dihydrochloride | Cl.Cl.NC=1C(=NC(=CC1C(F)(F)F)C)C | InChI=1S/C8H9F3N2.2ClH/c1-4-3-6(8(9,10)11)7(12)5(2)13-4;;/h3H,12H2,1-2H3;2*1H
